US06995144B2
6-[2-[4-Hydroxy-4-(2-fluorophenoxymethyl)piperidino]ethyl]-1H-pyrazin-2-one
After dissolving 274 mg of 1-[2-(6-tert-butoxypyrazin-2-yl)ethyl]-4-(2-fluorophenoxymethyl)piperidin-4-ol in 3 ml of ethyl acetate, 3 ml of 4N hydrogen chloride/ethyl acetate was added and the mixture was all owed to stand at room temperature for 2 hours. Aqueous sodium bicarbonate solution was added to the reaction solution and extraction was performed with dichloromethane. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. Diethyl ether was added to the residue and the mixture was filtered to obtain the title compound (186 mg, 79% yield).

reactant | 1-[2-(6-tert-butoxypyrazin-2-yl)ethyl]-4-(2-fluorophenoxymethyl)piperidin-4-ol | 274 mg | C(C)(C)(C)OC1=CN=CC(=N1)CCN1CCC(CC1)(O)COC1=C(C=CC=C1)F | C22H30FN3O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | hydrogen chloride ethyl acetate | 4N, 3 ml | Cl.C(C)(=O)OCC
product | 6-[2-[4-Hydroxy-4-(2-fluorophenoxymethyl)piperidino]ethyl]-1H-pyrazin-2-one | 186 mg, 79% yield | OC1(CCN(CC1)CCC1=CN=CC(N1)=O)COC1=C(C=CC=C1)F | C18H22FN3O3
